US04992455
Dry diisopropylamine (2.76 ml, 15.8 mmol) was added to dry tetrahydrofuran (9 ml). Further a n-butyllithium solution (10.6 ml, 16.2 mmol) in hexane was added dropwise at -20 to -30° C. The mixture was kept between those temperatures for 1 hour. Then a solution of 3-methyl-2-(3-pyridyl)thiazolidin-4-one (3 g, 15.4 mmol) in dry tetrahydrofuran was added dropwise at -78° C. After this reaction mixture had been kept at the same temperature for 1 hour, bromomethylcyclohexane (3.01 g, 17.0 mmol) and sodium iodide (2.31 g, 15.4 mmol) were added at -78° C. This reaction mixture was heated up to room temperature and kept standing overnight. The resulting mixture, after addition of aqueous NaCl, was extracted with ethyl acetate. The extract was washed with aqueous NaCl, dried, and the solvent was removed in vacuo. The residue was chromatographed on silica gel, giving 5,5-di(cyclohexylmethyl)-3-methyl-2-(3-pyridyl)thiazolidin-4-one (250 mg, 4.2% yield).

reactant | diisopropylamine | 15.8 mmol, 2.76 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 16.2 mmol, 10.6 ml | C(CCC)[Li]
reactant | 3-methyl-2-(3-pyridyl)thiazolidin-4-one | 15.4 mmol, 3 g | CN1C(SCC1=O)C=1C=NC=CC1 | C9H10N2OS
reactant | bromomethylcyclohexane | 17.0 mmol, 3.01 g | BrCC1CCCCC1 | C7H13Br
reactant | sodium iodide | 15.4 mmol, 2.31 g | [I-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | 5,5-di(cyclohexylmethyl)-3-methyl-2-(3-pyridyl)thiazolidin-4-one | 250 mg, 4.2% yield | C1(CCCCC1)CC1(C(N(C(S1)C=1C=NC=CC1)C)=O)CC1CCCCC1 | C23H34N2OS
